US08222416B2
A solution of 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethanol (110 mg, 0.20 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 2.0 mL, 2.0 mmol) was stirred at room temperature for 2 h. The reaction mixture was diluted with ethyl acetate (150 mL), and washed with a saturated aqueous ammonium chloride solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo the residue was treated with methanol to afford 2-[(E)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (50 mg, 64.1%) as a light yellow solid: LC/MS m/e calcd for C21H22N2O4S [M+H]+ 399.48, observed 399.3; 1H NMR (400 MHz, CD3OD) δ ppm 8.05-8.09 (m, J=8.1 Hz, 2H), 7.94 (d, J=2.5 Hz, 1H), 7.60-7.64 (m, J=8.1 Hz, 2H), 7.43 (d, J=2.5 Hz, 1H), 6.46 (d, J=9.1 Hz, 1H), 5.86 (s, 1H), 4.11-4.24 (m, 1H), 3.97 (q, J=7.0 Hz, 1H), 3.85 (s, 3H), 3.73-3.81 (m, 1H), 3.22 (s, 3H), 2.03-2.13 (m, 2H), 1.79-1.97 (m, 2H).

reactant | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-ethanol | 0.20 mmol, 110 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2OCCC2)(O)C2=CC=C(C=C2)S(=O)(=O)C | C27H28N2O7S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.0 mmol, 1 M, 2.0 mL | O1CCCC1 | C4H8O
product | 2-[(E)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 50 mg, 64.1% | CS(=O)(=O)C1=CC=C(C=C1)/C(=C\C1OCCC1)/C1=CC=2C(=NC=C(C2)OC)N1 | C21H22N2O4S
